US03957763
Following the procedure of Example 9, 3-methyl-7-ethyl-1,6-nonadien-3-ol and phosphorus tribromide are reacted to form 1-bromo-3-methyl-7-ethyl-2,6-nonadiene.

reactant | 3-methyl-7-ethyl-1,6-nonadien-3-ol | CC(C=C)(CCC=C(CC)CC)O | C12H22O
reactant | phosphorus tribromide | P(Br)(Br)Br | Br3P
product | 1-bromo-3-methyl-7-ethyl-2,6-nonadiene | BrCC=C(CCC=C(CC)CC)C | C12H21Br
